US07105507B2
1,1-Dimethylethyl 4-Oxo-1-phenylcyclohexylcarbamate
Di-tert-butyl dicarbonate (13.55 g, 62.1 mmol) was added to a solution of 4-oxo-1-phenylcyclohexylamine (Description 18, 9.78 g, 51.7 mmol) in dichloromethane (150 mL) and the mixture was stirred at room temperature for 18 hours, then under reflux for 6 hours. Further di-tert-butyl dicarbonate (8.00 g, 36.7 mmol) was added and the mixture was stirred under reflux for 60 hours. The mixture was cooled and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (75:25 increasing to 67:33), to give the title compound as a colorless solid (8.35 g, 56%). 1H NMR (400 MHz, CDCl3) δ 7.45–7.22 (5H, m), 5.02 (1H, br s), 2.75–2.50 (4H, m), 2.39 (2H, br d, J 12 Hz), 2.28 (2H, b. t, J 12 Hz), and 1.40 (9H, br s)

reactant | Di-tert-butyl dicarbonate | 62.1 mmol, 13.55 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-oxo-1-phenylcyclohexylamine | 51.7 mmol, 9.78 g | O=C1CCC(CC1)(C1=CC=CC=C1)N | C12H15NO
reactant | di-tert-butyl dicarbonate | 36.7 mmol, 8.00 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl 4-Oxo-1-phenylcyclohexylcarbamate | 8.35 g, 56% | O=C1CCC(CC1)(C1=CC=CC=C1)NC(OC(C)(C)C)=O | C17H23NO3
